US06440995B1
To a 0° C. suspension of NaH (0.11 g, 2.5 mmol, 55% in mineral oil) in DMF (3 ml) was added dropwise a DMF solution (3 ml) of a mixture of (2RS,5RS) and (2RS,5SR) (3-methyl-2-phenyl-oxazolidin-5-yl)-methanol (0.46 g, 2.4 mmol) in DMF (3 ml). After 15 min. at 0° C. and 2 hours at room temperature, reaction mixture was cooled to 0° C. and treated with a solution of 4-chloro-7-methyl-2-phenyl-quinoline (0.3 g, 1.2 mmol) in DMF (3 ml). After 5 min. at 0° C. and 21 hours at room temperature, the reaction mixture was cooled to 0° C., quenched with H2O (0.5 ml), and concentrated. The residue was treated with 1N HCl (6 ml). The so obtained yellow aqueous solution was extracted with CH2Cl2 (3×20 ml). Organic phases were washed with 1N HCl (2×10 ml). Combined aqueous phases were basified to pH 11 with 2N NaOH, and extracted with CH2Cl2 (3×20 ml). Combined organic phases were dried over Na2SO4 and concentrated. The residue was crystallized with Et2O to provide after filtration 95 mg of a white solid which was dissolved in MeOH. HCl-Et2O was added to provide (RS)-1-methylamino-3-(7-methyl-2-phenyl-quinolin-4-yloxy)-propan-2-ol hydrochloride (0.075 g, 16%) as a white solid, MS: m/e=323.3 (M+H+).

reactant | NaH | 2.5 mmol, 0.11 g | [H-].[Na+]
reactant | (2RS,5SR) (3-methyl-2-phenyl-oxazolidin-5-yl)-methanol | 2.4 mmol, 0.46 g | CN1C(OC(C1)CO)C1=CC=CC=C1 | C11H15NO2
reactant | 4-chloro-7-methyl-2-phenyl-quinoline | 1.2 mmol, 0.3 g | ClC1=CC(=NC2=CC(=CC=C12)C)C1=CC=CC=C1 | C16H12ClN
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (RS)-1-methylamino-3-(7-methyl-2-phenyl-quinolin-4-yloxy)-propan-2-ol hydrochloride | 0.075 g, 16% | Cl.CNCC(COC1=CC(=NC2=CC(=CC=C12)C)C1=CC=CC=C1)O | InChI=1S/C20H22N2O2.ClH/c1-14-8-9-17-19(10-14)22-18(15-6-4-3-5-7-15)11-20(17)24-13-16(23)12-21-2;/h3-11,16,21,23H,12-13H2,1-2H3;1H
